US05684034
A mixture of 150 mg (0.37 mmol) of 2-ethyl-5-(4-hydrazino-4-oxobutoxy)-1-(phenylmethyl)-1H-indole-3-acetamide and 200 mg of Raney Ni in 15 mL of ethanol was heated to maintain reflux for 2 hours. After cooling, the EtOH was poured off and the Raney Ni washed twice with methylene chloride. The combined washes were filtered, concentrated at reduced pressure and the residue chromatographed on silica eluting with EtOAc, then 10% MeOH/EtOAc to give 69 mg (47% yield) of 5-(4-amino-4-oxobutoxy)-2-ethyl-1-(phenylmethyl)-1H-indole-3-acetamide, mp 176°-179° C.

reactant | 2-ethyl-5-(4-hydrazino-4-oxobutoxy)-1-(phenylmethyl)-1H-indole-3-acetamide | 0.37 mmol, 150 mg | C(C)C=1N(C2=CC=C(C=C2C1CC(=O)N)OCCCC(=O)NN)CC1=CC=CC=C1 | C23H28N4O3
reactant | MeOH EtOAc | CO.CCOC(=O)C
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Ni | [Ni] | Ni
solvent | EtOH | CCO | C2H6O
product | 5-(4-amino-4-oxobutoxy)-2-ethyl-1-(phenylmethyl)-1H-indole-3-acetamide | 69 mg, 47% yield | NC(CCCOC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C23H27N3O3
